US08420825B2
2-{4-(2-({(2-(4-Chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl L-histidyl-L-alaninate dihydrochloride
169 mg (0.192 mmol) of 2-{4-(2-({(2-(4-chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl N-(tert-butoxycarbonyl)-L-histidyl-L-alaninate were dissolved in 3 ml dichloromethane, and 1.915 ml of a 1N solution of hydrogen chloride in diethyl ether were added. After 6 hours of stirring, the precipitated solid was filtered off with suction, washed with diethyl ether and dried under reduced pressure. 75 mg (44% of theory) of the target compound were obtained.

reactant | 2-{4-(2-({(2-(4-chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl N-(tert-butoxycarbonyl)-L-histidyl-L-alaninate | 0.192 mmol, 169 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](C)C(=O)OCCOC1=CC=C(C=C1)C1=C(C(=NC(=C1C#N)N1CCCC1)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl)C#N | C43H44ClN9O6S2
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-{4-(2-({(2-(4-Chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl L-histidyl-L-alaninate dihydrochloride | Cl.Cl.N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](C)C(=O)OCCOC1=CC=C(C=C1)C1=C(C(=NC(=C1C#N)N1CCCC1)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl)C#N | InChI=1S/C38H36ClN9O4S2.2ClH/c1-23(45-35(49)32(42)16-27-19-43-22-44-27)38(50)52-15-14-51-29-10-6-24(7-11-29)33-30(17-40)34(48-12-2-3-13-48)47-37(31(33)18-41)54-21-28-20-53-36(46-28)25-4-8-26(39)9-5-25;;/h4-11,19-20,22-23,32H,2-3,12-16,21,42H2,1H3,(H,43,44)(H,45,49);2*1H/t23-,32-;;/m0../s1
